US09108965B2
Step A: Preparation of 1,3-dimethyl 2-(3,5-dichlorophenyl)propanedioate
To a 3-neck 1 L reactor equipped with temperature probe, overhead stirrer, reflux condenser, and nitrogen bubbler, was added copper (1) iodide (4.0 g, 0.021 mol), 2-picolinic acid (5.2 g, 0.042 mol), 3,5-dichloroiodobenzene (99 g, 0.36 mol), and cesium carbonate (233 g, 0.72 mol) under nitrogen. Dioxane (600 mL) and dimethyl malonate (91 g, 0.69 mol, 1.9 eq.) were then added to the solid mixture with stirring under nitrogen. The resulting mixture was then heated to 90° C. for 7 h, forming a pale yellow-green slurry. Water (300 mL) and hexanes (200 mL) were added to the cooled reaction mixture at room temperature, stirred for 5 min, and transferred to a separatory funnel, and extracted twice with 75 mL dioxane-hexanes (2:1). The combined organic phases were washed with saturated aqueous ammonium chloride (200 mL) and concentrated to dryness to remove all dioxane. The residue was mixed with MeOH (100 mL) and water (200 mL). After stirring for 30 min, the mixture was cooled to 0° C. with an external ice-water bath and slowly stirred for 2 h. Filtration gave 98.6 g of crude material which was dissolved in MeOH (160 mL) at 50° C., with stirring, cooled to 0° C. over 6 h then maintained at 0° C. for 2 h. Filtration gave 85.6 g of the title compound as a fine white crystalline solid. The filtrate was concentrated to remove all MeOH, and the residue was filtered to give an additional 4.12 g of the title compound for a combined 89% yield.

reactant | 2-picolinic acid | 0.042 mol, 5.2 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 3,5-dichloroiodobenzene | 0.36 mol, 99 g | ClC=1C=C(C=C(C1)Cl)I | C6H3Cl2I
reactant | cesium carbonate | 0.72 mol, 233 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl malonate | 0.69 mol, 91 g, 1.9 eq. | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | MeOH | 160 mL | CO | CH4O
catalyst | copper (1) iodide | 0.021 mol, 4.0 g | [Cu]I
solvent | Water | 300 mL | O | H2O
solvent | Dioxane | 600 mL | O1CCOCC1 | C4H8O2
product | 1,3-dimethyl 2-(3,5-dichlorophenyl)propanedioate | 85.6 g, 89% yield | ClC=1C=C(C=C(C1)Cl)C(C(=O)OC)C(=O)OC | C11H10Cl2O4
